US05650428
The procedure described in Example 180 was repeated, except that (S)-2-(4-chlorobenzenesulfonylamino)-4-ethylthiobutanoic acid (695.2 mg) and ethyl 4-aminophenylacetate (380 mg) were condensed in dichloromethane (30 ml) in the presence of N,N'-dicyclohexylcarbodiimide (509.5 mg). The reaction mixture was filtered, and the filtrate was concentrated. The resulting crude product was recrystallized from ethanol to obtain (S)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-4-ethylthiobutanamide (321.5 mg).

reactant | (S)-2-(4-chlorobenzenesulfonylamino)-4-ethylthiobutanoic acid | 695.2 mg | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=S)O)CCCC | C12H16ClNO3S2
reactant | ethyl 4-aminophenylacetate | 380 mg | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | N,N'-dicyclohexylcarbodiimide | 509.5 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (S)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-4-ethylthiobutanamide | 321.5 mg | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=S)NC1=CC=C(C=C1)CC(=O)OCC)CCCC | C22H27ClN2O4S2
